US04977162
A solution of 10.7 g (71.25 mmoles) of 2-hydroxy-4-methylacetophenone and 31.24 g (214 mmoles) of diethyloxalate in 25 ml of ethanol is added dropwise to a solution of sodium ethoxide (formed by adding 6.55 g of sodium metal to 120 ml of ethanol). The mixture is refluxed for 4 hours, cooled to 0° C. and diluted with 500 ml of ether. The precipitate which forms on standing overnight is filtered off and redissolved in water and the solution acidified (pH approximately 1) with 1 N hydrochloric acid. The mixture is extracted with ethyl acetate which is dried and concentrated in vacuo. The residue is dissolved in 100 ml of ethanol and 3 ml of concentrated hydrochloric acid. This solution is refluxed for 1.5 hours, then concentrated in vacuo. The residue is poured into ice water and the precipitate which formed on standing overnight is filtered off and dissolved in ethyl acetate. The ethyl acetate solution is dried and concentrated in vacuo. The residue is purified by flash column chromatography through silica gel and recrystallization from ether/hexanes to give 8.75 g of 2-carboethoxy-7-methyl-4-oxo-4H-1-benzopyran as a white crystalline solid having an m.p. of 62°-4° C.

reactant | 2-hydroxy-4-methylacetophenone | 71.25 mmoles, 10.7 g | CC1=CC(=C(C=C1)C(=O)C)O | C9H10O2
reactant | diethyloxalate | 214 mmoles, 31.24 g | C(C)OC(C(=O)OCC)=O | C6H10O4
reactant | sodium ethoxide | 120 ml, 6.55 g | [O-]CC.[Na+]
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | ether | 500 ml | CCOCC | C4H10O
product | 2-carboethoxy-7-methyl-4-oxo-4H-1-benzopyran | 8.75 g | C(=O)(OCC)C=1OC2=C(C(C1)=O)C=CC(=C2)C | C13H12O4
